US04461896
(S)(-)-(3-Benzoylthio-1-oxopropyl)-1,2,3,4-tetrahydro-2-quinolinecarboxylic acid (3 g), concentrated ammonium hydroxide (18 ml), and water (36 ml) were combined and stirred at 40°-45° under nitrogen for three hours. After this time, another portion of concentrated ammonium hydroxide (6 ml) was added and the solution was heated at 40°-45° for an additional three hours under nitrogen. The reaction mixture was then diluted with water (100 ml) and extracted well with ethyl acetate. The aqueous phase was then cooled in an ice bath and the pH adjusted to 2 with concentrated hydrochloric acid. The product was extracted with ether. The extract was dried over sodium sulfate and concentrated under reduced pressure to yield (S)(-)-1,2,3,4-tetrahydro-1-(3-mercapto-1-oxopropyl)-2-quinolinecarboxylic acid; yield 1.6 g, m.p. 130°-132°, [α]D20 -302.3° (c 1, methanol).

reactant | (S)(-)-(3-Benzoylthio-1-oxopropyl)-1,2,3,4-tetrahydro-2-quinolinecarboxylic acid | 3 g | C(C1=CC=CC=C1)(=O)SCCC(=O)N1[C@@H](CCC2=CC=CC=C12)C(=O)O | C20H19NO4S
reactant | ammonium hydroxide | 18 ml | [OH-].[NH4+]
reactant | ammonium hydroxide | 6 ml | [OH-].[NH4+]
solvent | water | 100 ml | O | H2O
solvent | water | 36 ml | O | H2O
product | (S)(-)-1,2,3,4-tetrahydro-1-(3-mercapto-1-oxopropyl)-2-quinolinecarboxylic acid | SCCC(=O)N1[C@@H](CCC2=CC=CC=C12)C(=O)O | C13H15NO3S
